.subckt an41 A B C D VDD VSS Y
M8 Y net44 VSS VSS nmos w=2u l=1u
M7 N003 D VSS VSS nmos w=2u l=1u
M6 N002 C N003 VSS nmos w=2u l=1u
M5 N001 B N002 VSS nmos w=2u l=1u
M4 net44 A N001 VSS nmos w=2u l=1u
M9 Y net44 VDD VDD pmos w=6u l=1u
M3 net44 A VDD VDD pmos w=6u l=1u
M2 net44 B VDD VDD pmos w=6u l=1u
M1 net44 C VDD VDD pmos w=6u l=1u
M0 net44 D VDD VDD pmos w=6u l=1u
.ends an41