.subckt sff1m2_r CK D Q QB S VDD VSS
M28 NCK CK VDD VDD pmos w=6u l=1u
M28 net104 S VDD VDD pmos w=6u l=1u
M31 net92 S VDD VDD pmos w=6u l=1u
M26 Q QB VDD VDD pmos w=6u l=1u
M24 QB net92 VDD VDD pmos w=6u l=1u
M18 net78 net116 N003 VDD pmos w=6u l=1u
M17 net78 net74 N004 VDD pmos w=6u l=1u
M16 N003 net104 VDD VDD pmos w=6u l=1u
M15 N004 net92 VDD VDD pmos w=6u l=1u
M14 net92 net78 VDD VDD pmos w=6u l=1u
M13 net104 net114 VDD VDD pmos w=6u l=1u
M12 N002 net104 VDD VDD pmos w=6u l=1u
M11 N001 D VDD VDD pmos w=6u l=1u
M10 net114 net116 N002 VDD pmos w=6u l=1u
M9 net114 net74 N001 VDD pmos w=6u l=1u
M8 net116 net74 VDD VDD pmos w=6u l=1u
M7 net74 NCK VDD VDD pmos w=6u l=1u
M32 NCK CK VSS VSS nmos w=2u l=1u
M27 Q QB VSS VSS nmos w=2u l=1u
M25 QB net92 VSS VSS nmos w=2u l=1u
M30 N010 net78 VSS VSS nmos w=2u l=1u
M23 net78 net74 N008 VSS nmos w=2u l=1u
M22 N008 net104 VSS VSS nmos w=2u l=1u
M21 net78 net116 N009 VSS nmos w=2u l=1u
M20 N009 net92 VSS VSS nmos w=2u l=1u
M19 net92 S N010 VSS nmos w=2u l=1u
M29 N007 net114 VSS VSS nmos w=2u l=1u
M6 net116 net74 VSS VSS nmos w=2u l=1u
M5 net74 NCK VSS VSS nmos w=2u l=1u
M4 net104 S N007 VSS nmos w=2u l=1u
M3 N006 net104 VSS VSS nmos w=2u l=1u
M2 net114 net74 N006 VSS nmos w=2u l=1u
M1 N005 D VSS VSS nmos w=2u l=1u
M0 net114 net116 N005 VSS nmos w=2u l=1u
.ends sff1m2_r