.subckt cinv A OE VDD VSS X
M5 net6 OE VSS VSS nmos w=2u l=1u
M4 N002 OE VSS VSS nmos w=2u l=1u
M3 X A N002 VSS nmos w=2u l=1u
M2 net6 OE VDD VDD pmos w=6u l=1u
M1 X A N001 VDD pmos w=6u l=1u
M0 N001 net6 VDD VDD pmos w=6u l=1u
.ends cinv