.subckt na222 A0 A1 B0 B1 VDD VSS X
M7 net12 A1 VSS VSS nmos w=2u l=1u
M6 net12 A0 VSS VSS nmos w=2u l=1u
M5 X B1 net12 VSS nmos w=2u l=1u
M4 X B0 net12 VSS nmos w=2u l=1u
M3 X A1 N002 VDD pmos w=6u l=1u
M2 N002 A0 VDD VDD pmos w=6u l=1u
M1 X B1 N001 VDD pmos w=6u l=1u
M0 N001 B0 VDD VDD pmos w=6u l=1u
.ends na222