.subckt nr21 A B VDD VSS X
M3 N001 A VDD VDD pmos w=6u l=1u
M2 X B N001 VDD pmos w=6u l=1u
M1 X B VSS VSS nmos w=2u l=1u
M0 X A VSS VSS nmos w=2u l=1u
.ends nr21