.subckt an31 A B C VDD VSS Y
M7 Y net19 VDD VDD pmos w=6u l=1u
M6 net19 A VDD VDD pmos w=6u l=1u
M5 net19 B VDD VDD pmos w=6u l=1u
M4 net19 C VDD VDD pmos w=6u l=1u
M3 Y net19 VSS VSS nmos w=2u l=1u
M2 net19 A N001 VSS nmos w=2u l=1u
M1 N001 B N002 VSS nmos w=2u l=1u
M0 N002 C VSS VSS nmos w=2u l=1u
.ends an31