.subckt inv2 A VDD VSS X
M4 X A VDD VDD pmos w=6u l=1u
M3 X A VDD VDD pmos w=6u l=1u
M5 X A VSS VSS nmos w=2u l=1u
M0 X A VSS VSS nmos w=2u l=1u
.ends inv2