.subckt exnr A B VDD VSS X
M9 net18 A VSS VSS nmos w=2u l=1u
M8 net18 B VSS VSS nmos w=2u l=1u
M7 X net42 net18 VSS nmos w=2u l=1u
M6 N002 A VSS VSS nmos w=2u l=1u
M5 net42 B N002 VSS nmos w=2u l=1u
M4 X net42 VDD VDD pmos w=6u l=1u
M3 X A N001 VDD pmos w=6u l=1u
M2 N001 B VDD VDD pmos w=6u l=1u
M1 net42 A VDD VDD pmos w=6u l=1u
M0 net42 B VDD VDD pmos w=6u l=1u
.ends exnr