.subckt inv8 A VDD VSS X
M17 X A VDD VDD pmos w=6u l=1u
M15 X A VDD VDD pmos w=6u l=1u
M12 X A VDD VDD pmos w=6u l=1u
M10 X A VDD VDD pmos w=6u l=1u
M8 X A VDD VDD pmos w=6u l=1u
M6 X A VDD VDD pmos w=6u l=1u
M4 X A VDD VDD pmos w=6u l=1u
M3 X A VDD VDD pmos w=6u l=1u
M16 X A VSS VSS nmos w=2u l=1u
M14 X A VSS VSS nmos w=2u l=1u
M13 X A VSS VSS nmos w=2u l=1u
M11 X A VSS VSS nmos w=2u l=1u
M9 X A VSS VSS nmos w=2u l=1u
M7 X A VSS VSS nmos w=2u l=1u
M5 X A VSS VSS nmos w=2u l=1u
M0 X A VSS VSS nmos w=2u l=1u
.ends inv8