.subckt or31 A B C VDD VSS X
M7 X net075 VSS VSS nmos w=2u l=1u
M5 net075 A VSS VSS nmos w=2u l=1u
M4 net075 B VSS VSS nmos w=2u l=1u
M3 net075 C VSS VSS nmos w=2u l=1u
M6 X net075 VDD VDD pmos w=6u l=1u
M2 net075 A N002 VDD pmos w=6u l=1u
M1 N002 B N001 VDD pmos w=6u l=1u
M0 N001 C VDD VDD pmos w=6u l=1u
.ends or31